US05030733
To a solution of 11.0 g of 1-nonadecen-4-ol in 60 ml of dimethylformamide was added hexane-washed sodium hydride (from 2.34 g of a 50% oil dispersion). The reaction mixture was heated to 50° and 4.6 ml of benzyl bromide was added. The mixture was cooled to room temperature, quenched by the addition of water, and concentrated. The concentrate was diluted with water and then extracted with diethyl ether. The combined extracts were washed with water, dried over anhydrous sodium sulfate and concentrated to an oil. Purification of the oil by high pressure liquid chromatography utilizing diethyl ether/hexane (1:99) yielded 10.5 g (72%) of 4-benzyloxy-1-nonadecene as a liquid.

reactant | 1-nonadecen-4-ol | 11.0 g | C=CCC(CCCCCCCCCCCCCCC)O | C19H38O
reactant | hexane | CCCCCC | C6H14
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-1-nonadecene | 10.5 g, 72% | C(C1=CC=CC=C1)OC(CC=C)CCCCCCCCCCCCCCC | C26H44O
